US05508293
After 3-cyano-5-ethylpyridine (2.07 g, 15.7 mmol) was dissolved in 1-propanol (80 ml) and hydrogen chloride gas was passed into the solution for 30 minutes, the reactor was tight sealed and the mixture was stirred at room temperature for 30 hours. After the completion of the reaction, the reaction mixture was concentrated under reduced pressure, and the residue was neutralized with a saturated aqueous sodium carbonate solution and extracted with chloroform (100 ml×3). The chloroform layer was washed with saturated brine, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give a crude product of propyl 5-ethyl-3-pyridinecarboximidate (2.94 g).

reactant | 3-cyano-5-ethylpyridine | 15.7 mmol, 2.07 g | C(#N)C=1C=NC=C(C1)CC | C8H8N2
reactant | hydrogen chloride | Cl | ClH
reactant | 1-propanol | 80 ml | C(CC)O | C3H8O
product | propyl 5-ethyl-3-pyridinecarboximidate | 2.94 g | C(C)C=1C=C(C=NC1)C(OCCC)=N | C11H16N2O
